US09315467B2
Preparation of 3-[4-(4-Fluoro-phenyl)-pyrimidin-2-yl]-benzoic acid (Compound 32)
Part B. To a mixture of 3-carbamimidoyl-benzoic acid tert-butyl ester (220.2 mg, 0.94 mmol), 3-dimethylamino-1-(4-fluoro-phenyl)-propenone (182.6 mg, 0.95 mmol) and sodium hydride (39.2 mg, 1.63 mmol, 60% in hexanes) is added dry ethanol (5.0 mL). The resulting mixture is stirred at refluxing for 8 h until complete consumption of the starting material as determined by TLC. The solvent is removed, and the residue is added to 1N HCl (15 mL) to precipitate a yellow solid. The title product (137.8 mg, 41.3% yield) is produced after washing with water, then ethyl ether in sequence, m.p. 239-241° C. 1H NMR (300 MHz, DMSO-d6): δ 9.05 (1H, s), 8.97 (1H, d, J=5.0 Hz), 8.73 (1H, dd, J=7.7, 1.2 Hz), 8.38 (2H, m), 8.11 (1H, dd, J=8.0, 1.2 Hz), 8.04 (1H, d, J=5.3 Hz), 7.68 (1H, t, J=7.8 Hz), 7.43 (2H, m). MS (ES+): m/e 295.27.

reactant | 3-carbamimidoyl-benzoic acid tert-butyl ester | 0.94 mmol, 220.2 mg | C(C)(C)(C)OC(C1=CC(=CC=C1)C(N)=N)=O | C12H16N2O2
reactant | 3-dimethylamino-1-(4-fluoro-phenyl)-propenone | 0.95 mmol, 182.6 mg | CN(C)C=CC(=O)C1=CC=C(C=C1)F | C11H12FNO
reactant | sodium hydride | 1.63 mmol, 39.2 mg | [H-].[Na+]
solvent | ethanol | 5.0 mL | C(C)O | C2H6O
product | 3-[4-(4-Fluoro-phenyl)-pyrimidin-2-yl]-benzoic acid | 137.8 mg, 41.3% yield | FC1=CC=C(C=C1)C1=NC(=NC=C1)C=1C=C(C(=O)O)C=CC1 | C17H11FN2O2
